US07381741B2
2-Phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
2-Phenyl-1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrole-3-carboxylic acid ethyl ester (0.42 g, 1.13 mmol) (prepared according to the method disclosed in reference 1) and 1.0 M potassium tert-butoxide in THF (1.42 mL, 1.42 mmol) were stirred in THF at 0° C. for 30 min, then warmed to rt for 30 min. The reaction was diluted with diethyl ether, washed 1× with satd. NH4Cl, dried over MgSO4, filtered, and concentrated. Silica gel chromatography using hexanes/ethyl acetate (9:1) gave 0.195 g of title compound. (80% yield). 1H NMR (CDCl13) δ 9.14 (bs, 1H), 7.50-7.46 (m, 2H), 7.32-7.27 (m, 3H), 6.68-6.66 (t, J=2.90 Hz, 1H), 6.56-6.55 (t, J=2.90 Hz, 1H), 4.12-4.06 (q, J=7.25 Hz, 2H), 1.20-1.16 (t, J=7.25 Hz, 3H). 13C NMR (CDCl3) δ 165.8, 137.4, 132.4, 129.3, 128.8, 128.3, 128.2, 118.3, 112.1, 60.0, 14.4; MS APCI: [M+H]+=216.1.

reactant | 2-Phenyl-1-(toluene-4-sulfonyl)-2,5-dihydro-1H-pyrrole-3-carboxylic acid ethyl ester | 1.13 mmol, 0.42 g | C(C)OC(=O)C=1C(N(CC1)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C20H21NO4S
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 1.42 mmol, 1.42 mL | C1CCOC1 | C4H8O
product | 2-Phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | 0.195 g, 80% yield | C(C)OC(=O)C1=C(NC=C1)C1=CC=CC=C1 | C13H13NO2
